US08937083B2
To a solution of N-ethyl-4,4,4-trifluoro-3-hydroxy-N-(3-methyl-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-3-(trifluoromethyl)butanamide (184 mg, 0.448 mmol) in DMF (3 mL) stirring at 0° C. was added sodium hydride (26.9 mg, 0.673 mmol). The solution was stirred at 0° C. for 0.5 hour. Then iodomethane (0.034 mL, 0.538 mmol) was added and ice bath was removed and the mixture was stirred at 25° C. overnight. Reaction was worked up by slow addition of water and further diluted with 20 mL of water, then extracted with 4×20 mL of EtOAc. The combined organic layers were washed with water, dried over Na2SO4 and concentrated. Silica Gel chromatography (0-100% EtOAc/hexane) gave N-ethyl-4,4,4-trifluoro-3-methoxy-N-(3-methyl-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-3-(trifluoromethyl)butanamide (52 mg, 0.123 mmol, 27.3% yield) as a white solid: mp=83-86° C.; 1H NMR (400 MHz, CDCl3) δ 8.94 (d, J=2.5 Hz, 1H), 8.59 (dd, J=4.7, 1.3 Hz, 1H), 8.01 (ddd, J=8.3, 2.7, 1.5 Hz, 1H), 7.85 (s, 1H), 7.44 (ddd, J=8.3, 4.8, 0.6 Hz, 1H), 4.00 (brs, 1H), 3.73 (s, 3H), 3.39 (brs, 1H), 2.86 (s, 2H), 2.26 (s, 3H), 1.16 (t, J=7.1 Hz, 3H); ESIMS m/z 425 ([M+H]+); IR (Thin film) 1664 cm−1.

reactant | N-ethyl-4,4,4-trifluoro-3-hydroxy-N-(3-methyl-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-3-(trifluoromethyl)butanamide | 0.448 mmol, 184 mg | C(C)N(C(CC(C(F)(F)F)(C(F)(F)F)O)=O)C=1C(=NN(C1)C=1C=NC=CC1)C | C16H16F6N4O2
reactant | sodium hydride | 0.673 mmol, 26.9 mg | [H-].[Na+]
reactant | iodomethane | 0.538 mmol, 0.034 mL | IC | CH3I
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | N-ethyl-4,4,4-trifluoro-3-methoxy-N-(3-methyl-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-3-(trifluoromethyl)butanamide | 0.123 mmol, 52 mg, 27.3% yield | C(C)N(C(CC(C(F)(F)F)(C(F)(F)F)OC)=O)C=1C(=NN(C1)C=1C=NC=CC1)C | C17H18F6N4O2
